US05654299
A solution of 1-benzyloxycarbonyl-4-(4-methoxyphenyl)piperidine (0.42 g) in ethanol (5 mL) was treated with 10% palladium on carbon (0.04 g) and hydrogenated for 16 hours at atmospheric pressure. The reaction mixture was filtered through diatomaceous earth and evaporated to afford 4-(4-methoxyphenyl)piperidine as a colorless oil (0.22 g); NMR (CDCl3): 1.59-1.71 (m, 2), 1.85 (d, 2, J=12), 2.71-2.81 (d of t,2, J=12), 3.19-3.23 (broad, 2), 3.79 (s, 3), 6.83-6.87 (m, 2), 7.12-7.26 (m, 2); MS: m/z=192(M+1). This material was used in the next step without further purification.

reactant | 1-benzyloxycarbonyl-4-(4-methoxyphenyl)piperidine | 0.42 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)OC | C20H23NO3
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.04 g | [Pd] | Pd
product | 4-(4-methoxyphenyl)piperidine | 0.22 g | COC1=CC=C(C=C1)C1CCNCC1 | C12H17NO
